US07056937B2
Step C: Preparation of lithium [(4-methyl-3-oxo-1,2,3,4-tetrahydro-quinoxalin-2-yl)]-acetate
4-Methyl-3-oxo-1,2,3,4-tetrahydro-quinoxalin-2-yl-acetic acid ethyl ester (1.05 g, 4.23 mmol) was dissolved in a mixed solvent THF/H2O (1:1, 39 mL) and cooled to 0° C. in an ice-bath. Lithium hydroxide monohydrate (174 mg, 4.15 mmol) was then added and the resulting mixture was stirred at 0° C. for 6 h (monitored by TLC). Solvent was removed under reduced pressure and the residue was triturated with EtOAc to give the title compound as a gray solid: 1H NMR (D2O) δ=7.03–6.79 (m, 4H), 4.06 (dd, 1H, J=4.5, 9.6 Hz), 3.21 (s, 3H), 2.48 (dd, 1H, J=9.3, 15.6 Hz), 2.33 (dd, 1H, J=4.5, 15.6 Hz).

reactant | 4-Methyl-3-oxo-1,2,3,4-tetrahydro-quinoxalin-2-yl-acetic acid ethyl ester | 4.23 mmol, 1.05 g | C(C)OC(CC1NC2=CC=CC=C2N(C1=O)C)=O | C13H16N2O3
reactant | Lithium hydroxide monohydrate | 4.15 mmol, 174 mg | O.[OH-].[Li+]
solvent | THF H2O | 39 mL | C1CCOC1.O
product | lithium [(4-methyl-3-oxo-1,2,3,4-tetrahydro-quinoxalin-2-yl)]-acetate | CN1C(C(NC2=CC=CC=C12)CC(=O)[O-])=O.[Li+] | InChI=1S/C11H12N2O3.Li/c1-13-9-5-3-2-4-7(9)12-8(11(13)16)6-10(14)15;/h2-5,8,12H,6H2,1H3,(H,14,15);/q;+1/p-1
